US04658054
5,6-Dimethoxyanthranilic acid (7a)
A mixture of 36.8 g (130 mmol) of 2-carbomethoxy-N,N-diacetyl-3,4-dimethoxyaniline and 500 mL of 2N NaOH was prepared and heated to reflux to obtain a clear brown solution. After refluxing for 5 hours, the reaction mixture was treated with Darco and filtered through a Hyflo bed to give a clear yellow solution. Glacial acetic acid (65 mL) was added and the reaction mixture was extracted with 2×500 mL of methylene chloride. Drying over sodium sulfate and rotary evaporation gave 19.5 g (76%) of crude white product. Recrystallization from ethyl acetate-hexane gave 15.4 g (60%) of the product as a white crystalline solid, mp 92.5°-95.0° C. NMR (CDCl3) δ 3.78 (s, 3H, OCH3), 4.02 (s, 3H, OCH3), 6.45 (d, 1H, J=10 Hz, ArH), 7.00 (d, 1H, J=10 Hz, ArH), 7.60 (br s, 3 H, CO2H and NH2).

reactant | 2-carbomethoxy-N,N-diacetyl-3,4-dimethoxyaniline | 130 mmol, 36.8 g | C(=O)(OC)C1=C(N(C(C)=O)C(C)=O)C=CC(=C1OC)OC | C14H17NO6
reactant | NaOH | 2N, 500 mL | [OH-].[Na+]
reactant | Darco | C | CH4
solvent | acetic acid | 65 mL | C(C)(=O)O | C2H4O2
product | 5,6-Dimethoxyanthranilic acid | 15.4 g, 60% | COC1=CC=C(C(C(=O)O)=C1OC)N | C9H11NO4
